US09120749B2
{4-[trans-4-(Aminomethyl)cyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl {trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexyl}methylcarbamate (0.123 mmol) was reacted with TFA (2 mL) to afford the desired product (24 mg, 40% over two steps) as a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.36 (s, 1H), 8.47 (s, 1H), 8.27 (d, J=8.4 Hz, 1H), 7.98 (d, J=8.4 Hz, 1H), 7.74 (s, 2H), 4.54-4.48 (m, 1H), 2.92-2.76 (m, 3H), 2.50-2.37 (m, 2H), 2.08-2.02 (m, 2H), 1.83-1.64 (m, 3H), 1.41-1.15 (m, 6H); ESI MS m/z 484 [C26H27Cl2N3O2+H]+; HPLC>99% (AUC), tR=11.38 min.

reactant | tert-butyl {trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexyl}methylcarbamate | 0.123 mmol | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C31H35Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-(Aminomethyl)cyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 24 mg, 40% | NC[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C26H27Cl2N3O2
